US07745642B2
(±)-2-Chloro-N-[{1-[(cyclopropylmethyl)(methyl)amino]cyclopentyl}(phenyl)methyl]-3-(trifluoromethyl)benzamide hydrochloride
To a solution (±)-2-chloro-N-[[1-(methylamino)cyclopentyl](phenyl)methyl]-3-(trifluoromethyl)benzamide E22 (143 g; 0.35 mmol), cyclopropanecarboxaldehyde (0.026 ml; 0.035 mmol) and acetic acid (3 drops) in 1,2-dichloroethane (10 ml) was added sodium triacetoxyborohydride (303 mg; 1.4 mmol). The resulting mixture was allowed to stir at room temperature under argon overnight. Then the reaction mixture was diluted with DCM (20 ml), washed with saturated potassium carbonate solution and brine, dried (Na2SO4) and evaporated in vacuo. The mixture was separated by column chromatography on silica gel using 20% ether in n-pentane to 2% methanol in ether. The oil obtained was treated with 1M HCl in ether to give the title product as an off white hydrochloride salt (0.054 g; 33%). Mass Spectrum (Electrospray LC/MS). Found 465 (MH+). C25H2835ClF3N2O requires 464. Ret. time: 2.30 min.

reactant | (±)-2-chloro-N-[[1-(methylamino)cyclopentyl](phenyl)methyl]-3-(trifluoromethyl)benzamide | ClC1=C(C(=O)NC(C2=CC=CC=C2)C2(CCCC2)NC)C=CC=C1C(F)(F)F | C21H22ClF3N2O
reactant | cyclopropanecarboxaldehyde | 0.035 mmol, 0.026 ml | C1(CC1)C=O | C4H6O
reactant | sodium triacetoxyborohydride | 1.4 mmol, 303 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 1M | Cl | ClH
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | (±)-2-Chloro-N-[{1-[(cyclopropylmethyl)(methyl)amino]cyclopentyl}(phenyl)methyl]-3-(trifluoromethyl)benzamide hydrochloride | Cl.ClC1=C(C(=O)NC(C2=CC=CC=C2)C2(CCCC2)N(C)CC2CC2)C=CC=C1C(F)(F)F | InChI=1S/C25H28ClF3N2O.ClH/c1-31(16-17-12-13-17)24(14-5-6-15-24)22(18-8-3-2-4-9-18)30-23(32)19-10-7-11-20(21(19)26)25(27,28)29;/h2-4,7-11,17,22H,5-6,12-16H2,1H3,(H,30,32);1H
